US05763458
Proceeding as in Example 10, but replacing 1-bromopropane with iodobutane and 1-(4-amino-5-chloro-2-methoxyphenyl)-3-(piperidin-4-yl)propan-1-one with 1-(4-amino-5-chloro-2,3-dimethoxyphenyl)-3-(piperidin-4-yl)propan-1-one, gave 1-(4-amino-5-chloro-2,3-dimethoxyphenyl)-3-[1-(but-1-yl) piperidin-4-yl]-propan-1-one hydrochloride, m.p. 175°-176° C.

reactant | iodobutane | ICCCC | C4H9I
reactant | 1-(4-amino-5-chloro-2-methoxyphenyl)-3-(piperidin-4-yl)propan-1-one | NC1=CC(=C(C=C1Cl)C(CCC1CCNCC1)=O)OC | C15H21ClN2O2
reactant | 1-(4-amino-5-chloro-2,3-dimethoxyphenyl)-3-(piperidin-4-yl)propan-1-one | NC1=C(C(=C(C=C1Cl)C(CCC1CCNCC1)=O)OC)OC | C16H23ClN2O3
product | 1-(4-amino-5-chloro-2,3-dimethoxyphenyl)-3-[1-(but-1-yl) piperidin-4-yl]-propan-1-one hydrochloride | Cl.NC1=C(C(=C(C=C1Cl)C(CCC1CCN(CC1)CCCC)=O)OC)OC | InChI=1S/C20H31ClN2O3.ClH/c1-4-5-10-23-11-8-14(9-12-23)6-7-17(24)15-13-16(21)18(22)20(26-3)19(15)25-2;/h13-14H,4-12,22H2,1-3H3;1H
